US07553846B2
To a mixture of 2-amino-3-hydroxybenzoic acid hydrobromide (0.5 g, 2.14 mmol) and triethylamine (0.90 mL, 6.42 mmol) in dichloromethane (15 mL) was added phenylacetyl chloride (0.28 mL, 2.14 mmol) dropwise, then the reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane, and then washed with 2 N HCl. The aqueous layer was extracted with dichloromethane. The combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated. The crude product was dissolved in toluene (8 mL) and the solution was treated with p-toluenesulfonic acid monohydrate (537 mg, 2.83 mmol). The reaction mixture was then heated to reflux for 5 h. The reaction was cooled to room temperature, poured into water and extracted with ethyl acetate. The organic layer was separated, then washed with water (3×100 mL), brine, dried (Na2SO4), filtered and concentrated to afford 2-benzylbenzoxazole-4-carboxylic acid (277 mg, 51%) as a white solid: 1H NMR (500 MHz, DMSO-d6) δ 13.08 (br s, 1H), 7.91 (dd, J=7.1, 1.0 Hz, 1H), 7.85 (dd, J=7.7, 1.0 Hz, 1H), 7.44 (t, J=7.9 Hz, 1H), 7.40-7.34 (m, 4H), 7.31-7.27 (m, 1H), 4.40 (s, 2H); MS (ESI+) m/z 254 (M+H).

reactant | 2-amino-3-hydroxybenzoic acid hydrobromide | 2.14 mmol, 0.5 g | Br.NC1=C(C(=O)O)C=CC=C1O
reactant | triethylamine | 6.42 mmol, 0.90 mL | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | 2.14 mmol, 0.28 mL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | p-toluenesulfonic acid monohydrate | 2.83 mmol, 537 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-benzylbenzoxazole-4-carboxylic acid | 277 mg, 51% | C(C1=CC=CC=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C15H11NO3
